US07951818B2
12.1 (5-Chloro-imidazo[1,2-a]pyridin-8-yl)-[4-(4-isopropyl-piperazin-1-yl)-phenyl]-amine
Palladium acetate (4.67 mg, 0.021 mmol) and rac-BINAP (12.95 mg, 0.021 mmol) are sonicated in toluene (4.5 mL) under nitrogen, at room temperature for 5 minutes in a microwave tube. 5-Chloro-8-iodo-imidazo[1,2-a]pyridine (116 mg, 0.417 mmol), Cs2CO3 (679.7 mg, 2.09 mmol) and 4-(4-isopropyl-piperazin-1-yl)-phenylamine (109.59 mg, 0.502 mmol) are then added at room temperature. The reaction mixture is then allowed to proceed at reflux for 16 hours at which point no starting material is visible by LC-MS. After concentration, the mixture is diluted in dichloromethane, and washed with 10% aqueous citric acid solution. The aqueous phase is then basified to pH 7 with saturated aqueous NaHCO3, and extracted with dichloromethane. The combined organic layers are dried (MgSO4) and the solvent is removed under reduced pressure to yield title compound, which is used as such for the next step.

reactant | rac-BINAP | 0.021 mmol, 12.95 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | 5-Chloro-8-iodo-imidazo[1,2-a]pyridine | 0.417 mmol, 116 mg | ClC1=CC=C(C=2N1C=CN2)I | C7H4ClIN2
reactant | Cs2CO3 | 2.09 mmol, 679.7 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4-(4-isopropyl-piperazin-1-yl)-phenylamine | 0.502 mmol, 109.59 mg | C(C)(C)N1CCN(CC1)C1=CC=C(C=C1)N | C13H21N3
solvent | toluene | 4.5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Palladium acetate | 0.021 mmol, 4.67 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (5-Chloro-imidazo[1,2-a]pyridin-8-yl)-[4-(4-isopropyl-piperazin-1-yl)-phenyl]-amine | ClC1=CC=C(C=2N1C=CN2)NC2=CC=C(C=C2)N2CCN(CC2)C(C)C | C20H24ClN5
